US05691330
To a solution of 0.5 g of 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine hydrochloride in ethanol was added 0.3 ml of 37% formaldehyde solution and the mixture was stirred at room temperature for an hour. To the mixture was added 0.2 g of sodium cyanoborohydride, the mixture was stirred for an hour, and then concentrated. To the residue was added water and extracted with chloroform. The extract was washed with water, dried and concentrated in vacuo. The residue was purified by column chromatography and recrystallized from isopropyl ether to give 2,6-dimethyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine 1/2hydrate as white crystals, m.p. 100°-103° C.

reactant | 3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine hydrochloride | 0.5 g | Cl.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(SC=3CNCCC32)C)C=C1
reactant | formaldehyde | 0.3 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2,6-dimethyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | CC1=C(C2=C(CN(CC2)C)S1)CCN1CCC(CC1)C1=NOC2=C1C=CC(=C2)F | C23H28FN3OS
